US07423185B2
A mixture of benzyl 4′-(2-methanesulfonyloxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate (0.20 g), 4-((1R,2S)-2-amino-1-hydroxypropyl)phenol (0.074 g) and diisopropylamine (0.074 mL) in N,N-dimethylformamide (2 mL) was stirred at 80° C. overnight. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:methylene chloride/methanol=15/1-10/1) to afford benzyl 4′-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-3′,5′-dimethylbiphenyl-4-carboxylate (0.108 g).

reactant | benzyl 4′-(2-methanesulfonyloxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate | 0.20 g | CS(=O)(=O)OCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)C | C25H26O6S
reactant | 4-((1R,2S)-2-amino-1-hydroxypropyl)phenol | 0.074 g | N[C@H]([C@H](O)C1=CC=C(C=C1)O)C | C9H13NO2
reactant | diisopropylamine | 0.074 mL | C(C)(C)NC(C)C | C6H15N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 4′-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-3′,5′-dimethylbiphenyl-4-carboxylate | 0.108 g | O[C@@H]([C@H](C)NCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)C)C1=CC=C(C=C1)O | C33H35NO5
